US08420640B2
To a solution of 3-nitroaniline (0.5 g, 3.6 mmol) in 10 ml acetic acid added bromine (0.2 ml, 4.0 mmol) and stirred at 0° C. for 1 hour. The solution was filtered after recovering to room temperature to obtain 2-bromo-5-nitrobenzenamine (0.32 g, 40%) as a powder. A solution of 2-bromo-5-nitrobenzenamine (0.4 g, 1.8 mmol), sodium hydroxide (0.14 g, 3.6 mmol) and benzoyl chloride (0.24 ml, 2.0 mmol) in 20 ml THF was stirred for 2 hours in icy water bath. The reaction was quenched and washed with water (3×20 ml). The mixture was dried over anhydrous sodium sulfate. The crude N-(2-bromo-5-nitrophenyl)benzamide (0.3 g, 50%) was obtained after evaporation of the solvents. 1H NMR (500 MHz, CDCl3) δ (ppm) 7.65 (m, 2H), 7.68 (m, 1H), 7.80 (d, J=8.8 Hz, 1H), 7.94 (dd, J=8.8, 2.7 Hz, 1H), 8.00 (m, 2H), 8.62 (s, 1H), 9.55 (d, J=2.7 Hz, 1H).

reactant | 3-nitroaniline | 3.6 mmol, 0.5 g | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | bromine | 4.0 mmol, 0.2 ml | BrBr | Br2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-5-nitrobenzenamine | 0.32 g, 40% | BrC1=C(C=C(C=C1)[N+](=O)[O-])N | C6H5BrN2O2
